US03992446
Preparation of Methyl 3-(4-chlorobenzylidene)thiocarbazimidate hydrochloride
A 10% molar excess of methyl chloride is added to 2.14 g. of 4-chlorobenzaldehyde thiosemicarbazone and 25 ml. of a anhydrous ethanol in a pressure vessel. The reaction mixture is magnetically stirred and heated in an oil bath for 11/2 hour. The crystalline title compound separates on cooling and is filtered off and air dried.

reactant | methyl chloride | CCl | CH3Cl
reactant | 4-chlorobenzaldehyde thiosemicarbazone | ClC1=CC=C(C=NNC(=S)N)C=C1 | C8H8ClN3S
solvent | ethanol | C(C)O | C2H6O
product | Methyl 3-(4-chlorobenzylidene)thiocarbazimidate hydrochloride | Cl.ClC1=CC=C(C=NNC(SC)=N)C=C1 | InChI=1S/C9H10ClN3S.ClH/c1-14-9(11)13-12-6-7-2-4-8(10)5-3-7;/h2-6H,1H3,(H2,11,13);1H
